US06268387B1
3-(3,5-Dichloro-phenylamino)-4-methoxy-N-phenyl-benzamide
Prepared according to the procedure of Example 33 using 3-amino-4-methoxy-N-phenyl-benzamide (2.0 g, 8.3 mmol), 3,5-dichloroiodobenzene (4.5 g, 16.5 mmol), potassium carbonate (2.9 g, 21.0 mmol), and copper(I) iodide (0.5 g, 2.6 mmol) to give a gummy residue which was subjected to chromatography on a column of silica gel in dichloromethane to afford the product (0.3 g); m.p. 207-208° C. after recrystallization from ethanol.

reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 8.3 mmol, 2.0 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
reactant | 3,5-dichloroiodobenzene | 16.5 mmol, 4.5 g | ClC=1C=C(C=C(C1)Cl)I | C6H3Cl2I
reactant | potassium carbonate | 21.0 mmol, 2.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper(I) iodide | 2.6 mmol, 0.5 g | [Cu]I
product | 3-(3,5-Dichloro-phenylamino)-4-methoxy-N-phenyl-benzamide | 0.3 g | ClC=1C=C(C=C(C1)Cl)NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C20H16Cl2N2O2
